US05656613
Purification of Dihydrofinasteride
To obtain sufficient transformed inhibitor for mass spectral analysis, a preparation of baculovirus-expressed enzyme was employed that consisted of all protein sedimenting between 1,000 to 100,000×g. The enzyme-[3H]finasteride complex was formed in a solution containing 1.39 μM enzyme (41,000 units, 141 mg protein), 1.14 μM unlabeled finasteride (15.0 nmol), 0.0113 uM tracer [3H]finasteride (1.56 μCi), and 573 μM NADPH, in a buffer composed of 0.1M MOPS, 1M sucrose, and 10 mM EDTA at pH 7.20 in a total volume of 13.1 mL. The enzyme was dispersed in the solution with a dounce and stirred for 45 min as it warmed to room temperature, which produced 73% inhibition. The solution was then dialyzed overnight at 4° C. in 14,000 Da cutoff dialysis tubing (SPECTRAPOR 2) against 2 changes of 4L water containing 1 mM MOPS and 1 mM EDTA at pH 7.20. This resulted in 88% retention of the radioactivity. (Analysis of the radioactivity lost to dialysis indicated 62% chromatographed as [3H]dihydrofinasteride, and the remainder as [3H]finasteride. This corresponds to loss of 8% of the total starting radioactivity as [3H]dihydrofinasteride, implying a partition ratio of 1.08 in this instance.)

reactant | finasteride | 15.0 nmol, 1.14 μM | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)NC(C)(C)C)CC[C@@H]4[C@@]3(C=CC(=O)N4)C | C23H36N2O2
reactant | NADPH | 573 μM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | MOPS | 0.1M | C1COCCN1CCCS(=O)(=O)O | C7H15NO4S
reactant | sucrose | 1M | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | EDTA | 10 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | Dihydrofinasteride | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)NC(C)(C)C)CC[C@@H]4[C@@]3(CCC(=O)N4)C | C23H38N2O2
